US06713499B2
To a stirred solution of 0.73 g (2.74 mmol) (4-methoxy-3-nitro-phenyl)-methyl-(tetrahydro-pyran-4-yl)-amine in 50 ml methanol was added 15 mg 10% palladium on charcoal and the mixture was then stirred for 18 hours at room temperature under an atmosphere of hydrogen. The mixture was then filtered and the filtrate concentrated in vacuo to afford 0.3520 g (54%) 4-methoxy-N1-methyl-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,3-diamine as an off-white solid. Mp.: 97-99° C.

reactant | (4-methoxy-3-nitro-phenyl)-methyl-(tetrahydro-pyran-4-yl)-amine | 2.74 mmol, 0.73 g | COC1=C(C=C(C=C1)N(C1CCOCC1)C)[N+](=O)[O-] | C13H18N2O4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
product | 4-methoxy-N1-methyl-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,3-diamine | 0.3520 g, 54% | COC1=C(C=C(C=C1)N(CC1CCOCC1)C)N | C14H22N2O2
